US05731315
A. 4-Amino-3-methyl benzonitrile
To a solution of 3-methyl-4-nitrobenzonitrile (2.0 g, 12.3 mmol) in 100 mL of EtOH is added SnCl2 (13.9 g, 61.7 mmol). The resulting solution is heated at reflux. After 2 h, the solution is cooled to ambient temperatures. The solution is poured into 150 mL of ice water. The pH of the solution is adjusted to >7 with a solution of saturated NaHCO3. The solution is diluted with EtOAc and the resulting mixture is filtered through Celite. The filtered solution is separated. The organic layer is dried over MgSO4, filtered and concentrated to give the title compound (1.57 g, 8.7 mmol) as an off-white solid.

reactant | 3-methyl-4-nitrobenzonitrile | 12.3 mmol, 2.0 g | CC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O2
reactant | SnCl2 | 61.7 mmol, 13.9 g | Cl[Sn]Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Amino-3-methyl benzonitrile | 8.7 mmol, 1.57 g | NC1=C(C=C(C#N)C=C1)C | C8H8N2
